* LMV601
*****************************************************************************
* (C) Copyright 2012 Texas Instruments Incorporated. All rights reserved.
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
** Released by: WEBENCH(R) Design Center, Texas Instruments Inc.
* Part: LMV601
* Date: 5/8/2012
* Model Type: All In One
* Simulator: Spice
* Simulator Version: N/A
* EVM Order Number: N/A
* EVM Users Guide: N/A
* Datasheet: SNOSC70 - April 19, 2012
*
* Model Version: 1.0
*
*****************************************************************************
*
* Updates:
*
* Version 1.0 : Release to Web
*
*****************************************************************************
* Notes:
* This model can be used for LMV601, LMV602 and LMV604
*
* BEGIN MODEL LMV601
* NOTE THAT THIS MODEL DOES NOT SUPPORT THE
* SHUTDOWN FEATURE OF THE LMV601.
* NOTE THAT PINOUT IS FOR A AMPLIFIER ONLY.
* PINOUT ORDER +IN -IN +V -V OUT
* PINOUT ORDER  3   2   8  4  1
*****************************************************************************
.SUBCKT LMV601 3 2 8 4 1
R77 12 13 2
R78 14 13 2
R79 15 10 100
R80 16 17 100
R81 18 8 8
R82 4 19 8
R84 20 21 3.3E3
R85 22 23 8
R86 11 24 8
D21 1 8 DD
D22 4 1 DD
D23 25 0 DIN
D24 26 0 DIN
I24 0 25 0.1E-3
I25 0 26 0.1E-3
E25 11 0 4 0 1
E26 23 0 8 0 1
D25 27 0 DVN
D26 28 0 DVN
I26 0 27 1E-3
I27 0 28 1E-3
E27 29 2 27 28 3.1
G13 30 2 25 26 5E-7
E28 31 0 23 0 1
E29 32 0 11 0 1
E30 33 0 34 0 1
R88 31 35 1E6
R89 32 36 1E6
R90 33 37 1E6
R91 0 35 100
R92 0 36 100
R93 0 37 100
E31 38 3 37 0 -3
R94 39 34 1K
R95 34 40 1K
C29 31 35 0.2E-12
C30 32 36 0.2E-12
C31 33 37 200E-12
E32 41 38 36 0 0.5
E33 42 41 35 0 0.5
E34 43 11 23 11 0.5
D27 20 23 DD
D28 11 20 DD
M24 44 45 19 19 NOUT L=3U W=2000U
M25 46 47 18 18 POUT L=3U W=2000U
M26 48 48 22 22 POUT L=3U W=2000U
M27 49 50 12 12 PIN L=3U W=50U
M28 51 52 14 14 PIN L=3U W=50U
M29 53 53 24 24 NOUT L=3U W=2000U
R96 54 47 100
R97 55 45 100
G14 20 43 56 43 0.2E-3
R98 43 20 60E6
C32 21 1 30E-12
R99 11 49 2.05E3
R100 11 51 2.05E3
C33 49 51 18E-12
C34 42 0 5E-12
C35 0 29 5E-12
C36 1 0 1E-12
D29 45 9 DD
D30 57 47 DD
Q21 9 10 11 QNL
Q22 57 16 23 QPL
V27 30 50 0.7E-3
M33 58 59 23 23 PIN L=6U W=500U
I28 48 53 2E-6
E35 40 0 30 0 1
E36 39 0 2 0 1
M36 59 59 23 23 PIN L=6U W=500U
I29 59 11 75E-6
V30 58 13 0.098
R105 1 46 15
R106 44 1 15
J5 60 30 60 JC
J6 60 52 60 JC
J7 52 61 52 JC
J8 30 61 30 JC
C38 42 29 3E-12
E38 62 43 51 49 1
R108 62 56 10K
C40 56 43 6E-12
G16 63 43 20 43 -1E-3
G17 43 64 20 43 1E-3
G18 43 65 53 11 1E-3
G19 66 43 23 48 1E-3
D31 66 63 DD
D32 64 65 DD
R110 63 66 100E6
R111 65 64 100E6
R112 66 23 1E3
R113 11 65 1E3
E39 23 54 23 66 1
E40 55 11 65 11 1
R114 64 43 1E6
R115 65 43 1E6
R116 43 66 1E6
R117 43 63 1E6
R118 4 8 1E6
G20 8 4 67 0 -50U
D33 68 0 DD
V33 68 67 0.6
R119 0 67 1E6
I31 8 4 153U
I32 30 0 0.02E-12
I33 52 0 0.02E-12
I34 0 68 0.2U
C45 69 52 1E-12
C46 69 30 1E-12
R122 0 69 220
E41 69 0 25 26 18
V45 23 60 0.45
V46 61 11 0.45
E42 8 17 8 18 1
E43 15 4 19 4 1
R204 30 42 8E3
R205 29 52 8E3
R210 41 42 1E9
R211 38 41 1E9
R212 3 38 1E9
R213 2 29 1E9
R214 43 56 1E9
R215 48 23 1E9
R216 11 53 1E9
R217 1 47 1E9
R218 45 19 1E9
R219 0 68 1E9
.MODEL JC NJF IS=1E-18
.MODEL DVN D KF=5E-14 IS=1E-16
.MODEL DIN D
.MODEL DD D
.MODEL QPL PNP
.MODEL QNL NPN
.MODEL POUT PMOS KP=200U VTO=-0.7
.MODEL NOUT NMOS KP=200U VTO=0.7
.MODEL PIN PMOS KP=200U VTO=-0.7
.MODEL NIN NMOS KP=200U VTO=0.7
.MODEL PINT PMOS KP=200U VTO=-0.7 LAMBDA=0.01
.ENDS
* END MODEL LMV601
